US04885283
21.0 g of N6 -[(benzyloxy)carbonyl]-L-lysine were dissolved in 75 ml of 2M sodium hydroxide solution and 75 ml of dioxane. Thereafter, 18.0 g of di-tert.butyl dicarbonate were added and the mixture was stirred at room temperature for 16 hours. The solution was evaporated in order to remove dioxane, water was added, the solution was extracted with diethyl ether and acidified with 6M hydrochloroic acid. The product was taken up in ethyl acetate, washed with sodium chloride solution, dried over magnesium sulfate and evaporated to give an oil. A solution of this oil in tetrahydrofuran was cooled to -15° C. and treated with 8.51 ml of N-ethylmorpholine, 8.61 ml of isobutylchloroformate and, after 5 minutes, with 10.0 ml of a 40% aqueous solution of methylamine. After stirring at 0° C. for 2 hours, the solvent was removed by evaporation and the residue was dissolved in ethyl acetate. The organic solution was washed with water, 5% citric acid solution, water, 5% sodium hydrogen carbonate solution and sodium chloride solution, dried over anhydrous magnesium sulfate and evaporated. Recrystallization from ethyl acetate yielded 20.5 g of N6 -[(benzyloxy)carbonyl]-N2 -(tert.-butoxycarbonyl)-L-lysine methylamide in the form of a white solid of melting point 100°-102° C.

reactant | N6 -[(benzyloxy)carbonyl]-L-lysine | 21.0 g | C(C1=CC=CC=C1)OC(=O)NCCCC[C@H](N)C(=O)O | C14H20N2O4
reactant | di-tert.butyl dicarbonate | 18.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | N-ethylmorpholine | 8.51 ml | C(C)N1CCOCC1 | C6H13NO
reactant | isobutylchloroformate | 8.61 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | methylamine | CN | CH5N
solvent | sodium hydroxide | 2M, 75 ml | [OH-].[Na+]
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | N6 -[(benzyloxy)carbonyl]-N2 -(tert.-butoxycarbonyl)-L-lysine methylamide | 20.5 g | CNC([C@@H](NC(=O)OC(C)(C)C)CCCCNC(=O)OCC1=CC=CC=C1)=O | C20H31N3O5
